US07687490B2
b) 1-(N,N-Diisopropylaminocarbonyloxy)ethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
In the same manner as in step b) in Example 125, 92 mg of the title compound was prepared from 247 mg of 1-chloroethyl N,N-diisopropylcarbamate and 400 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 1-chloroethyl N,N-diisopropylcarbamate | 247 mg | C(C)(C)N(C(OC(C)Cl)=O)C(C)C | C9H18ClNO2
reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 400 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
product | 1-(N,N-Diisopropylaminocarbonyloxy)ethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 92 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OC(C)OC(=O)N(C(C)C)C(C)C)C1=O | C25H35N3O7S2
